US06569361B1
34.3 g (0.22 mol) of 4,4′-bipyridyl and 106 g (0.66 mol) of α,α′-dichloro-p-xylene are stirred in 500 ml of acetonitrile at 90° C. for 4 hours under an argon atmosphere. After cooling, the precipitate is filtered off and washed sufficiently with acetonitrile. Drying gives 88.1 g of 1,1′-di[p-(chloromethyl)benzyl]-4,4′-bipyridinium dichloride.

reactant | 4,4′-bipyridyl | 0.22 mol, 34.3 g | N1=CC=C(C=C1)C1=CC=NC=C1 | C10H8N2
reactant | α,α′-dichloro-p-xylene | 0.66 mol, 106 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1,1′-di[p-(chloromethyl)benzyl]-4,4′-bipyridinium dichloride | 88.1 g | [Cl-].[Cl-].ClCC1=CC=C(C[N+]2=CC=C(C=C2)C2=CC=[N+](C=C2)CC2=CC=C(C=C2)CCl)C=C1 | InChI=1S/C26H24Cl2N2.2ClH/c27-17-21-1-5-23(6-2-21)19-29-13-9-25(10-14-29)26-11-15-30(16-12-26)20-24-7-3-22(18-28)4-8-24;;/h1-16H,17-20H2;2*1H/q+2;;/p-2
